US08389717B2
d) (1-{4-[4-(2-Chloro-pyridin-3-yloxy)-6-methoxy-[1,3,5]triazin-2-ylamino]-2-methoxy-phenyl}-1H-imidazol-4-yl)-methanol
This compound was prepared in analogy to example 3 from {1-[4-(4-chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-2-methoxy-phenyl]-1H-imidazol-4-yl}-methanol and 2-chloro-3-hydroxypyridine. The title compound was isolated as a slightly brownish solid in 43% yield.

reactant | {1-[4-(4-chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-2-methoxy-phenyl]-1H-imidazol-4-yl}-methanol | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)CO)OC | C15H15ClN6O3
reactant | 2-chloro-3-hydroxypyridine | ClC1=NC=CC=C1O | C5H4ClNO
product | (1-{4-[4-(2-Chloro-pyridin-3-yloxy)-6-methoxy-[1,3,5]triazin-2-ylamino]-2-methoxy-phenyl}-1H-imidazol-4-yl)-methanol | 43% yield | ClC1=NC=CC=C1OC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)CO)OC | C20H18ClN7O4
